US07662812B2
4-[4-(9-Methyl-3,9-diaza-bicyclo[3.3.1]non-3-yl)-phenylethynyl]-phenylamine free base (Compound E1)
A mixture of N-{4-[6-(9-methyl-9-aza-bicyclo[3.3.1]non-3-yl)-pyridazin-3-ylethynyl]-phenyl}-acetamide (0.42 g, 1.11 mmol), aqueous sodium hydroxide (10 ml, 4 M) and ethanol (10 ml, 96%) was stirred for 2 hours at reflux. The mixture was evaporated. Water (30 ml) was added and the mixture was extracted twice with dichloromethane (2×30 ml). Chromatography on silica gel with dichloromethane, 10% methanol and 1% aqueous ammonia as solvent gave the title compound. Yield 0.30 g (80%). Mp. 191° C.

reactant | N-{4-[6-(9-methyl-9-aza-bicyclo[3.3.1]non-3-yl)-pyridazin-3-ylethynyl]-phenyl}-acetamide | 1.11 mmol, 0.42 g | CN1C2CC(CC1CCC2)C2=CC=C(N=N2)C#CC2=CC=C(C=C2)NC(C)=O | C23H26N4O
reactant | sodium hydroxide | 4 M, 10 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[4-(9-Methyl-3,9-diaza-bicyclo[3.3.1]non-3-yl)-phenylethynyl]-phenylamine | CN1C2CN(CC1CCC2)C2=CC=C(C=C2)C#CC2=CC=C(C=C2)N | C22H25N3
